### PR TITLE
Replace signed by itv

### PR DESCRIPTION
**Pull request by proux01**
##### Motivation for this change

Complete the development of itv.v and use it in place of signed.v

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: reals/itv.v [hunk 1]
```diff
@@ -85,251 +120,418 @@ Import GRing.Theory Num.Theory.
 Local Open Scope ring_scope.
 Local Open Scope order_scope.
 
-Definition wider_itv (x y : interval int) := subitv y x.
+Notation "!! x" := (ltac:(refine x)) (only parsing).
+(* infer class to help typeclass inference on the fly *)
```
Comment (CohenCyril) [inline reals/itv.v:124]: This is now mainstream
https://github.com/math-comp/math-comp/blob/7f493f289b656a07ca295a42d818e4c070dea67a/mathcomp/ssreflect/ssreflect.v#L21-L23
If the `!!` shortcut is deemed necessary, we can make it `Local`

File: reals/itv.v [hunk 2]
```diff
@@ -3,7 +3,7 @@ From HB Require Import structures.
 From mathcomp Require Import ssreflect ssrfun ssrbool.
 From mathcomp Require Import ssrnat eqtype choice order ssralg ssrnum ssrint.
 From mathcomp Require Import interval.
-From mathcomp Require Import mathcomp_extra boolp signed.
+From mathcomp Require Import mathcomp_extra boolp.
```
Comment (CohenCyril) [inline reals/itv.v:6]: @proux01 you can remove the dependency in `boolp`.
BTW I think we should to backport this file to mathcomp asap.
Do you want someone else to do it (I or @hoheinzollern volunteer) or will you?

Comment (CohenCyril) [reply reals/itv.v:6]: (we just checked it goes all the way through in mathcomp/algebra)

File: analysis_stdlib/showcase/uniform_bigO.v [hunk 3]
```diff
@@ -98,7 +98,7 @@ Proof.
 move=> fOg; apply/Ouex_to_P; move: fOg => /eqOP [k [kreal hk]].
 have /hk [Q [->]] : k < maxr 1 (k + 1) by rewrite lt_max ltrDl orbC ltr01.
 move=> [R [[_/posnumP[e1] Re1] [_/posnumP[e2] Re2]] sRQ] fOg.
-exists (minr e1%:num e2%:num) => //.
+exists (minr e1%:num e2%:num); first by apply: gt0; exact: RbaseSymbolsImpl.R.
```
Comment (CohenCyril) [inline analysis_stdlib/showcase/uniform_bigO.v:101]: I don't understand what's happening here... did you investigate the cause of this regression?

Comment (proux01) [reply analysis_stdlib/showcase/uniform_bigO.v:101]: Yes, that's what we discussed during some mathcomp meeting. Since we don't have a structure of porderNmodType, `gt0` requires a `numDomainType` but the instance on min only provide a porderType (c.f. `min_max_typ`) and somehow we fail to reinfer a `numDomainType` (sorry, this was two months ago and I don't quite remember all the details out of my head, I would need a closer look to retrieve them).

File: reals/itv.v (hunk 2 above)
Comment (proux01) [reply reals/itv.v:6]: Great.
I can reopen in algebra. But I still think this requires some reviewing (for instance, we should probably do some kind of Private module from which we only import the canonical instances, rather than naming everything `_subproof`,...). Do we continue the review here before reopening or do I first reopen in algebra and we do the review in the new PR?

Comment (CohenCyril) [reply reals/itv.v:6]: I think we can continue the review here, which will make it easier to adapt the changes to analysis. When it's ready we can backport to analysis.
In order to generalize normed modules to pseudo-normed modules, we actually need it (cf https://github.com/CohenCyril/math-comp/tree/numext)

File: analysis_stdlib/showcase/uniform_bigO.v (hunk 3 above)
Comment (CohenCyril) [reply analysis_stdlib/showcase/uniform_bigO.v:101]: I see! Incidentally we are going to fix this problem in mathcomp https://github.com/CohenCyril/math-comp/tree/numext by creating partially ordered nmodules and zmodules...

Comment (proux01) [reply analysis_stdlib/showcase/uniform_bigO.v:101]: The conclusion of the last meeting on the topic was that I should do some bibliography on the topic to not get it wrong. Are you doing it? (to avoid duplicating the work)

Comment (CohenCyril) [reply analysis_stdlib/showcase/uniform_bigO.v:101]: Yes, reading about ordered groups and riez spaces

**Review by affeldt-aist — APPROVED** [review]
I haven't read in details but since it fixes at least two issues and since once merged the file will again be the object of a port to MathComp, I think it should be merged for the next release.

**Comment by proux01** [comment]
As you want. I still think it could be good to have a light review about for instance putting things in a `Private` module, checking that the doc is reasonnable,...

**Comment by affeldt-aist** [comment]
> As you want. I still think it could be good to have a light review about for instance putting things in a `Private` module, checking that the doc is reasonnable,...

You're right. I'll do that this week-end.

**Comment by affeldt-aist** [comment]
> @affeldt-aist thanks for the fix/update but apparently there are still conflicts?

Indeed. It compiles fine on my machine though (MathComp 2.3.0, HB 1.8.1, Coq 8.20.1).
I might try other configurations as part of my review this week-end.

File: reals/itv.v [hunk 4]
```diff
@@ -85,771 +118,1390 @@ Import GRing.Theory Num.Theory.
...
+
+Lemma map_itv_bound_comp S T U (f : T -> S) (g : U -> T) (b : itv_bound U) :
+  Itv.map_itv_bound (f \o g) b = Itv.map_itv_bound f (Itv.map_itv_bound g b).
+Proof. by case: b. Qed.
+
+Section NumDomainTheory.
+Context {R : numDomainType} {i : Itv.t}.
+Implicit Type x : num_def R i.
+
+Lemma intr_le_map_itv_bound (x y : itv_bound int) :
```
Comment (affeldt-aist) [inline reals/itv.v:316]: rename to `le_num_itv_bound` since it does not seem related to the definition `map_itv_bound`?

File: reals/itv.v [hunk 5]
```diff
@@ -85,771 +118,1390 @@ Import GRing.Theory Num.Theory.
...
+  (num_itv_bound R x <= num_itv_bound R y)%O = (x <= y)%O.
+Proof.
+by case: x y => [[] x | x] [[] y | y]//=; rewrite !bnd_simp ?ler_int ?ltr_int.
+Qed.
+
+Lemma intr_BLeft_le_map_itv_bound (x : itv_bound int) (y : int) :
```
Comment (affeldt-aist) [inline reals/itv.v:322]: rename to `BLeft_le_num_itv_bound`?

File: reals/itv.v [hunk 6]
```diff
@@ -85,771 +118,1390 @@ Import GRing.Theory Num.Theory.
...
+  (num_itv_bound R x <= BLeft (y%:~R : R))%O = (x <= BLeft y)%O.
+Proof.
+rewrite -[BLeft y%:~R]/(Itv.map_itv_bound intr (BLeft y)).
+by rewrite intr_le_map_itv_bound.
+Qed.
 
-Lemma itv_bottom x : unify_itv empty_itv i -> False.
+Lemma BRight_intr_le_map_itv_bound (x : int) (y : itv_bound int) :
```
Comment (affeldt-aist) [inline reals/itv.v:329]: rename to `BRight_le_num_itv_bound`?

File: reals/itv.v [hunk 7]
```diff
@@ -85,771 +118,1390 @@ Import GRing.Theory Num.Theory.
...
+Lemma opp_itv_gt0 b : (BRight 0%R <= opp_itv_bound b)%O = (b <= BLeft 0%R)%O.
 Proof.
-by case: b => [[] b | []//]; rewrite /= !bnd_simp ?oppr_ge0 // oppr_gt0.
+by case: b => [[] b | []//]; rewrite /= !bnd_simp ?oppr_ge0 ?oppr_gt0.
 Qed.
 
-Lemma opp_itv_boundr_subproof (x : R) b :
-  (BRight (- x)%R <= Itv.map_itv_bound intr (opp_itv_bound_subdef b))%O
-  = (Itv.map_itv_bound intr b <= BLeft x)%O.
+Lemma opp_itv_boundr (x : R) b :
```
Comment (affeldt-aist) [inline reals/itv.v:544]: rename to `num_opp_itv_boundr` to mark it as depending on `numDomainType`? (and similarly for `opp_itv_boundl`, `odd_spec`, `add_itv_boundl_spec`, `add_itv_boundr_spec`, `add_spec`, `add_inum`?)

**Comment by affeldt-aist** [comment]
There is a number of definitions/lemmas (e.g., `map_itv_bound`, `add_itv`, see (non-exhaustive?) list below [1]) that do not depend on the `Itv` module but only on `interval` and possibly `int`. They amount for a sizeable amount of the file (about 20%?) and can be understood independently of the inference infrastructure. What about putting then together at the top of the file as a "preliminaries" section (extending `interval.v`) so as to lighten the core part of the file and clarify dependencies on section variables?

[1]
map_itv_bound
map_itv_bound_comp
opp_itv_bound
opp_itv_ge0
opp_itv_gt0
opp_itv
add_itv_boundl
add_itv_boundr
add_itv
mul_itv_boundl
mul_itv_boundr
signb
itv_bound_signl 
itv_bound_signr
signi
interval_sign
mult_itv
mul_itv_boundrC
mul_itv_boundr_BRight
max_itv
min_itv
keep_pos_itv_bound
exprn_le1_itv_bound
exprn_itv

File: reals/constructive_ereal.v [hunk 8]
```diff
@@ -3456,201 +3504,703 @@ Module ConstructiveDualAddTheory.
...
+Lemma EFin_spec i (x : num_def R i) : ext_num_spec i x%:num%:E.
+Proof.
+case: i x => [//| [l u] [x /=/and3P[xr /= lx xu]]].
+by apply/and3P; split=> [//||]; [case: l lx | case: u xu].
+Qed.
+
+Canonical EFin_inum i (x : num_def R i) := Itv.mk (EFin_spec x).
 
-Canonical pinfty_snum := Signed.mk (pinfty_snum_subproof).
+Definition keep_nonneg_itv_bound b :=
```
Comment (affeldt-aist) [inline reals/constructive_ereal.v:3694]: move near its sibings `keep_pos_itv_bound` and `keep_neg_itv_bound` in `itv.v`?

File: reals/constructive_ereal.v [hunk 9]
```diff
@@ -3456,201 +3504,703 @@ Module ConstructiveDualAddTheory.
...
+  match b with
+  | BSide _ (Posz _) => BLeft 0%Z
+  | BSide _ (Negz _) => -oo%O
+  | BInfty _ => -oo%O
+  end.
+Arguments keep_nonneg_itv_bound /.
 
-Lemma ninfty_snum_subproof : Signed.spec 0 !=0 <=0 (-oo : \bar R).
-Proof. by rewrite /= leNy0. Qed.
+Definition keep_nonpos_itv_bound b :=
```
Comment (affeldt-aist) [inline reals/constructive_ereal.v:3702]: same comment as for `keep_nonneg_itv_bound`

File: reals/constructive_ereal.v [hunk 10]
```diff
@@ -3456,201 +3504,703 @@ Module ConstructiveDualAddTheory.
...
+  match b with
+  | BSide _ (Negz _) | BSide _ (Posz 0) => BRight 0%Z
+  | BSide _ (Posz (S _)) => +oo%O
+  | BInfty _ => +oo%O
+  end.
+Arguments keep_nonpos_itv_bound /.
 
-Canonical ninfty_snum := Signed.mk (ninfty_snum_subproof).
+Definition fine_itv i :=
```
Comment (affeldt-aist) [inline reals/constructive_ereal.v:3710]: The definition does depend directly on `fine` so maybe there is a better name.

File: reals/itv.v [hunk 11]
```diff
@@ -85,771 +118,1390 @@ Import GRing.Theory Num.Theory.
...
+Definition empty_itv := Itv.Real `[1%Z, 0%Z].
+
+Lemma bottom x : ~ unify_itv i empty_itv.
+Proof.
+case: x => x /= /[swap] /subitv_map_itv /[apply] /andP[_] /=.
 by rewrite in_itv/= => /andP[] /le_trans /[apply]; rewrite ler10.
 Qed.
 
-Lemma itv_gt0 x : unify_itv `]Posz 0, +oo[ i -> 0%R < x%:inum :> R.
+Lemma gt0 x : unify_itv i (Itv.Real `]0%Z, +oo[) -> 0 < x%:num :> R.
```
Comment (affeldt-aist) [inline reals/itv.v:354]: This is a very short name. I would fear a potential clash in the future though I am not sure there is really a problem. `itv_gt0` looked a bit more informative.

Comment (CohenCyril) [reply reals/itv.v:354]: Actually this replaces and subsumes signed `gt0`. If there is a most general version of `gt0`, it's this one now.

**Comment by proux01** [comment]
> There is a number of definitions/lemmas (e.g., `map_itv_bound`, `add_itv`, see (non-exhaustive?) list below [1]) that do not depend on the `Itv` module but only on `interval` and possibly `int`. They amount for a sizeable amount of the file (about 20%?) and can be understood independently of the inference infrastructure. What about putting then together at the top of the file as a "preliminaries" section (extending `interval.v`) so as to lighten the core part of the file and clarify dependencies on section variables?
> 
> [1] map_itv_bound map_itv_bound_comp opp_itv_bound opp_itv_ge0 opp_itv_gt0 opp_itv add_itv_boundl add_itv_boundr add_itv mul_itv_boundl mul_itv_boundr signb itv_bound_signl itv_bound_signr signi interval_sign mult_itv mul_itv_boundrC mul_itv_boundr_BRight max_itv min_itv keep_pos_itv_bound exprn_le1_itv_bound exprn_itv

Note that most (if not all) of these are now in the `Instances` module which is not imported (and not meant to be). So it's a kind of private module. So we need to find a solution to not make them too public. Maybe a new `IntervalArithmetic` module, or even file?

File: analysis_stdlib/showcase/uniform_bigO.v (hunk 3 above)
Comment (CohenCyril) [reply analysis_stdlib/showcase/uniform_bigO.v:100]: > Yes, that's what we discussed during some mathcomp meeting. Since we don't have a structure of porderNmodType, `gt0` requires a `numDomainType` but the instance on min only provide a porderType (c.f. `min_max_typ`) and somehow we fail to reinfer a `numDomainType` (sorry, this was two months ago and I don't quite remember all the details out of my head, I would need a closer look to retrieve them).

I found the problem, fixing it.

**Review by CohenCyril — APPROVED** [review]

File: reals/itv.v [hunk 12]
```diff
@@ -1036,8 +1036,7 @@ Canonical max_typ_inum d (t : min_max_typ d) (xi yi : Itv.t)
   Itv.mk (min_max_maxP x y).
 
 (* Instance of the above structure for numDomainType *)
-Canonical num_min_max_typ (R : numDomainType) :=
-  MinMaxTyp num_min_spec num_max_spec.
+Canonical num_min_max_typ := MinMaxTyp num_min_spec num_max_spec.
```
Comment (proux01) [inline reals/itv.v:1039]: @CohenCyril damn, that one was pretty stupid (and I did the same in constructive_ereal.v)

**Comment by proux01** [comment]
Thanks for the reviews and fixes. They are now taken into account. If CI agres, I consider this ready.
One last point: I remember some worries about `itv.v` being too short of a filename, and that something like `interval_inference.v` could be better. Any opinion?

**Comment by affeldt-aist** [comment]
> One last point: I remember some worries about itv.v being too short of a filename, and that something like interval_inference.v could be better. Any opinion?

`interval_inference.v` sounds good to me.

**Comment by proux01** [comment]
Note that the failure on master is unrelated (I'm waiting for a release of coq-elpi to add rocqPackages.rocq-elpi in nixpkgs and fix it)

**Comment by affeldt-aist** [comment]
Should we merge this one for today's release?

**Comment by proux01** [comment]
Can be merged when CI is green
